US08212041B2
1-(2-chloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethanol
A suspension of 1-(4-bromo-2-chlorophenyl)ethanol (600 mg, 2548 μmol), bis(pinacolato)diboron (712 mg, 2802 μmol), dichloro[1,1′bis(diphenylphoshino)ferrocene]palladium(ii)dichloromethane adduct (93.2 mg, 127 μmol), potassium acetate (319 μl, 5095 μmol) in dioxane (5 mL) was sparged with argon for 5 min then heated to 120° C. in an appropriately sealed vial. Reaction then partitioned between EtOAc (25 mL) and 5% NaHCO3 (25 mL). Aqueous further washed with EtOAc (2×20 mL). Combined organics dried with sat NH4Cl, MgSO4, concentrated, then purified on silica (80 g) eluting with 10>35% EtOAc/Hex. Product isolated as a colorless oil.

reactant | 1-(4-bromo-2-chlorophenyl)ethanol | 2548 μmol, 600 mg | BrC1=CC(=C(C=C1)C(C)O)Cl | C8H8BrClO
reactant | bis(pinacolato)diboron | 2802 μmol, 712 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 5095 μmol, 319 μl | C(C)(=O)[O-].[K+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | dichloro[1,1′bis(diphenylphoshino)ferrocene]palladium(ii)dichloromethane adduct | 127 μmol, 93.2 mg | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
product | 1-(2-chloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethanol | ClC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C(C)O | C14H20BClO3
